US07605265B2
2-Benzyloxy-5,6,7,8-tetrahydro-quinolin-5-ylamine:
A solution of O-benzyl-N-(2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-hydroxylamine (51.0 g, 142 mmoL) dissolved in dry THF (65 mL) was cooled in ice-water bath under nitrogen. Borane (1.0 M in THF, 427 mL) was added dropwise in 30 min via an addition funnel. The reaction was allowed to warm up to room temperature and stirred for overnight. The mixture was then heated to reflux. After 2 h, the heating was stopped and the reaction was allowed to cool to room temperature. Water (120 mL) was added dropwise via an addition funnel. The mixture was then concentrated, and 20% aqueous sodium hydroxide (200 mL) was added. The resulting mixture was heated to reflux for 2 h. The reaction was allowed to cool to room temperature, and extracted with methylene chloride (×3). The combined methylene chloride extract was dried, filtered and concentrated. Purification by column chromatography on silica gel with 20% methanol/1% ammonium hydroxide/methylene chloride provided the desired product (32.0 g, 89%) as colorless oil.

reactant | O-benzyl-N-(2-benzyloxy-5,6,7,8-tetrahydro-quinolin-5-yl)-hydroxylamine | 51.0 g | C(C1=CC=CC=C1)ONC1C=2C=CC(=NC2CCC1)OCC1=CC=CC=C1 | C23H24N2O2
reactant | Borane | 1.0 M, 427 mL | B | BH3
reactant | Water | 120 mL | O | H2O
solvent | THF | 65 mL | C1CCOC1 | C4H8O
product | 2-Benzyloxy-5,6,7,8-tetrahydro-quinolin-5-ylamine | 32.0 g, 89% | C(C1=CC=CC=C1)OC1=NC=2CCCC(C2C=C1)N | C16H18N2O
